US06486155B1
To a solution of 4,5-dimethoxy-2-(3,4,5-trimethoxybenzoyl)benzoic acid (5 g) in dimethylformamide (50 ral) ard added potassium carbonate (3.72 g) and diethyl bromomalonate (2.48 ml), and the mixture is stirred at room temperature overnight. The mixture is evaporated to remove dimethylformamide, and thereto is added chloroform and water. The chloroform layer is separated, and thereto are added dioxane (80 ml) and conc. hydrochloric acid (80 ml). The mixture is heated under reflux for three hours. The reaction mixture is cooled, and the precipitated crystals are collected by filtration washed with acetone, and dried to give 6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)isocoumarin-3-carboxylic acid (2.85 g) as listed in Table 57.

reactant | 4,5-dimethoxy-2-(3,4,5-trimethoxybenzoyl)benzoic acid | 5 g | COC1=CC(=C(C(=O)O)C=C1OC)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C19H20O8
reactant | potassium carbonate | 3.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl bromomalonate | 2.48 ml | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)isocoumarin-3-carboxylic acid | 2.85 g | COC=1C=C2C(=C(OC(=O)C2=CC1OC)C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC | C21H20O9
